US08183255B2
Intermediate N1(i): tert-butyl 3-{[5-fluoro-2-(methoxymethyl)pyrimidin-4-yl]amino}-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate
To a solution of tert-butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate (3.00 g, 11.6 mmol) and 4-chloro-5-fluoro-2-(methoxymethyl)pyrimidine (2.06 g, 11.6 mmol) in DMSO (8 mL) was added potassium dihygrogenphosphate (1.58 g, 2.3 mmol) followed by H3PO4 (0.29 g, 2.3 mmol). The reaction was place in a 90° C. oil bath and heated for 20 h. The crude reaction was cooled to room temperature then poured into ice cold NaHCO3 (60 mL) and extracted with EtOAc (2×30 mL). The combined organic extracts were washed with brine then dried (MgSO4), filtered and concentrated. The crude solid was triturated with EtOAc to provide the title compound N1(i) as a white solid (3.2 g, 70%). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.44 (s, 9H), 1.59 (s, 3H), 1.61 (s, 3H), 3.34 (s, 3H), 4.29-4.44 (m, 2H), 4.45-4.64 (m, 2H), 8.32 (d, J=3.20 Hz, 1H), 10.25 (br. s., 1H), 12.24 (br. s., 1H). Mass Spectrum: Calcd for C18H25FN6O3(M+H): 393. Found: 393.

reactant | tert-butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | 11.6 mmol, 3.00 g | NC=1C2=C(NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C | C12H20N4O2
reactant | 4-chloro-5-fluoro-2-(methoxymethyl)pyrimidine | 11.6 mmol, 2.06 g | ClC1=NC(=NC=C1F)COC | C6H6ClFN2O
reactant | potassium | [K] | K
reactant | H3PO4 | 2.3 mmol, 0.29 g | OP(=O)(O)O | H3O4P
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | tert-butyl 3-{[5-fluoro-2-(methoxymethyl)pyrimidin-4-yl]amino}-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | FC=1C(=NC(=NC1)COC)NC=1C2=C(NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C | C18H25FN6O3
